US09402914B2
A 5-L 4-neck round-bottom flask was flushed with N2. Then charged a solution of 2-(2-aminoethoxyl)propane-1,3-diol (97.2 g, 0.7 mol, 1.0 eq) in methanol (1798 mL, 18.5 v), di-tert-butyl dicarbonate (314.4 g, 1.4 mol, 2.0 eq) and a solution of potassium (88.9 g, 1.6 mol, 2.2 eq) in water (1798 mL, 18.5 v). The resulting solution was stirred for 3.5 h at 1721° C. in a water bath. The resulting mixture was washed with petroleum ether (1400.0 mL+1200.0 ml) and concentrated under vacuum. The residual solution was extracted with dichloromethane (6×500 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 79.1 g (59.4%) of tert-butyl 2-(1,3-dihydroxypropan-2-yloxy)ethylcarbamate as a light yellow oil.

reactant | 2-(2-aminoethoxyl)propane-1,3-diol | 0.7 mol, 97.2 g, 1.0 eq | NCCOC(CO)CO | C5H13NO3
reactant | di-tert-butyl dicarbonate | 1.4 mol, 314.4 g, 2.0 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium | 1.6 mol, 88.9 g, 2.2 eq | [K] | K
solvent | methanol | 1798 mL | CO | CH4O
solvent | water | 1798 mL | O | H2O
product | tert-butyl 2-(1,3-dihydroxypropan-2-yloxy)ethylcarbamate | 79.1 g, 59.4% | OCC(CO)OCCNC(OC(C)(C)C)=O | C10H21NO5
